US20010036956A1
Synthesis of 4-[3,5-bis(4-hydroxyphenyl)isoxazol-4-yl]phenol
Synthesis of 1,3-diketone is similar to that described in Step 1 of Section 5.1.2.7. To a solution of desoxyanisoin (1.0 equiv) in THF at −78° C. was added lithium bis(trimethylsilyl)amide (1.2 equiv.) dropwise. The resultant solution was allowed to stir for 40 min at −78° C. and a solution of p-allyloxybenzoyl chloride (1.1 equiv.) in THF was added dropwise. The reaction mixture was allowed to warm to room temperature slowly overnight to produce an orange colored solution. The mixture was diluted with 0.5 N HCl, extracted with ethyl acetate, washed with 0.5 N HCl, water, brine, dried over sodium sulfate, filtered and concentrated in vacuo. The crude product was purified by recrystallization. This afforded some of the desired compound and the remaining residue was purified by flash column chromatography (ethyl acetate:hexanes 1:3) to afford the 1,3-diketone.

reactant | desoxyanisoin | 1.0 equiv | C1(=CC=C(OC)C=C1)C(=O)CC1=CC=C(OC)C=C1 | C16H16O3
reactant | lithium bis(trimethylsilyl)amide | 1.2 equiv. | C[Si](C)(C)[N-][Si](C)(C)C.[Li+]
reactant | p-allyloxybenzoyl chloride | 1.1 equiv. | C(C=C)OC1=CC=C(C(=O)Cl)C=C1 | C10H9ClO2
solvent | THF | C1CCOC1 | C4H8O
solvent | HCl | 0.5 N | Cl | ClH
product | 4-[3,5-bis(4-hydroxyphenyl)isoxazol-4-yl]phenol | OC1=CC=C(C=C1)C1=NOC(=C1C1=CC=C(C=C1)O)C1=CC=C(C=C1)O | C21H15NO4
